Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
fever, abd pain, influenza like illness 
 
Major Surgical or Invasive Procedure:
None this admission
Relevant: R knee washout and debridement (___) 
 
History of Present Illness:
___ yo man w/ developmental delay, adrenal hyperplasia (on  
 dexamethasone, fludrocortisone), recent traumatic R quad tendon
rupture s/p quad tendon repair on ___ ___/b sepsis 
s/p
debridement of R knee on ___ w/ no growth from OR cultures, on
4-week course of IV vancomycin/ceftriaxone ending ___, 
currently
on PO vancomycin for presumed C. diff. He presented to the ED
today with fevers, abdominal pain, and influenza-like illness.  

 Pt reports that he woke up yesterday with nausea, fever/chills,
cough profuse watery diarrhea, and diffuse abdominal pain. Noted
to be dry heaving in the ED with multiple episodes of emesis,
nonbloody and nondiscolored. Denies chest pain or dyspnea. Most
bothersome symptom in the ED was suprapubic abdominal pain. 
 
Regarding his C. diff history, C. diff PCR was positive but 
toxin
negative on ___. However, per OPAT notes he was started on 
PO
vancomycin 125mg QID for presumptive treatment of C. diff given
copious diarrhea with abdominal cramping. Plan was to continue 
PO
vanc through ___ (5 days after completing IV antibiotics).  

 - In the ED, initial vitals were: T 101, HR 110, BP 106/54, RR
18, O2 sat 97% on RA  

 - Exam was notable for: abd soft and non-distended but 
diffusely
tender to palpation, no CVA tenderness, well healing surgical
incision on R knee without erythema, induration, fluctuance, or
purulence, no rashes.  

 - Labs were notable for: WBC 6.4 with 68% PMNs, Hgb 10.2, AST
56, ALT 62, lipase 107, K 2.9 -> 3.2 after 160mEq potassium
chloride repletion, bicarb 19, lactate 1.5. Clean UA, flu swab
negative.  

 - Studies were notable for:  
 -- CXR showing appropriate positioning of L PICC in lower SVC  
 -- CT abd/pelvis with new mild bilateral perinephric stranding
(nonspecific), 2mm nonobstructing R renal stone  
 -- R knee XR with possible small knee effusion  
 - The patient was given: Zofran 4mg x2, 2.6L NS, potassium
chloride 40mEq PO x2, potassium chloride 40mEq IV x2, zosyn 4.5g
x2, dexamethasone 0.5mg, fludrocortisone 0.1mg, PO vancomycin
125mg, IV vancomycin 1250mg  

 - Ortho was consulted: no concern for wound infection at this
time, recommend outpatient Ortho follow up.  

 He is being admitted to Medicine for further workup of his 
fever
and diarrhea.  

 On arrival to the floor the patient says he is tired and cold
(his room is cold as well). He wants to sleep. He says he 
started
feeling unwell yesterday. He says it has been sometime since has
last threw up or had nausea. He denies current fevers, chills,
headaches. He denies sick contacts. He denies current abdominal
pain, nausea, vomiting, pain with urination, or changes in
urinary frequency. He notes lots of non-black, non-bloody
diarrhea.  
 
Past Medical History:
1) 21-hydroxylase deficiency.   
2) CVA at ___ of age w/ resultant mental retardation.  
3) h/o diverticulitis since age ___.
4) h/o Guillain ___ syndrome in ___.  
 
Social History:
___
Family History:
(from previous discharge summary ___ Father has AAA.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
========================  
VITALS: 24 HR Data (last updated ___ @ 2346)
Temp: 98.6 (Tm 98.6), BP: 100/65, HR: 74, O2 sat: 97%, O2 
delivery: Ra  
GENERAL: Alert and interactive. In no acute distress.  
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM
NECK: No cervical lymphadenopathy. No JVD.  
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No 
murmurs/rubs/gallops.  
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.  
BACK: No CVA tenderness.  
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.  
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial
2+ bilaterally. RT knee w/ healing surgical scars. Mild erythema
and warmth on RT knee.  
SKIN: Warm. Cap refill <2s. No rashes.  
NEUROLOGIC: AOx3. CN2-12 intact. Moving all 4 limbs
spontaneously. ___ strength throughout. Normal sensation.

DISCHARGE PHYSICAL EXAM
========================
24 HR Data (last updated ___ @ 553)
    Temp: 98.4 (Tm 98.8), BP: 120/82 (102-120/66-82), HR: 77
(77-99), RR: 20 (___), O2 sat: 97%, O2 delivery: Ra, Wt: 114.4
lb/51.89 kg   
GEN: Well appearing, in no acute distress
HEENT: Conjunctiva clear, PERRL, MMM
NECK: No JVD.
LUNGS: CTAB
HEART: RRR, nl S1, S2. No m/r/g.
ABD: NT/ND, normal bowel sounds. 
EXTREMITIES: No edema. Right knee with erythema around previous
incision site, dry eschar, mildly warm to touch, nontender. 
SKIN: No rashes.
NEURO: AOx3. 
 
Pertinent Results:
ADMISSION LABS
===============
___ 02:50AM BLOOD WBC-6.5 RBC-3.63* Hgb-10.8* Hct-32.4* 
MCV-89 MCH-29.8 MCHC-33.3 RDW-13.7 RDWSD-45.1 Plt ___
___ 02:50AM BLOOD Neuts-73.0* Lymphs-11.3* Monos-7.4 
Eos-7.2* Baso-0.6 Im ___ AbsNeut-4.77 AbsLymp-0.74* 
AbsMono-0.48 AbsEos-0.47 AbsBaso-0.04
___ 04:00AM BLOOD Glucose-95 UreaN-9 Creat-1.1 Na-138 
K-2.9* Cl-106 HCO3-19* AnGap-13
___ 04:00AM BLOOD ALT-62* AST-56* AlkPhos-59 TotBili-0.2
___ 04:00AM BLOOD Lipase-107*
___ 04:00AM BLOOD Albumin-3.1*
___ 04:45PM BLOOD Glucose-113* Lactate-1.2 Creat-1.1 Na-143 
K-3.2* Cl-111* calHCO3-21

DISCHARGE LABS
==============
___ 06:35AM BLOOD WBC-11.2* RBC-3.25* Hgb-9.5* Hct-29.8* 
MCV-92 MCH-29.2 MCHC-31.9* RDW-14.0 RDWSD-46.7* Plt ___
___ 06:35AM BLOOD Glucose-95 UreaN-9 Creat-1.2 Na-149* 
K-3.6 Cl-109* HCO3-23 AnGap-17
___ 06:35AM BLOOD Calcium-8.9 Phos-4.4 Mg-2.1

INTERVAL LABS/MICROBIOLOGY/REPORTS
================================
___ 06:08AM BLOOD Calcium-8.5 Phos-3.0 Mg-1.6 Iron-25*
___ 06:08AM BLOOD calTIBC-242* Ferritn-332 TRF-186*
___ 06:08AM BLOOD CRP-95.8*
___ 04:00AM OTHER BODY FLUID FluAPCR-NEGATIVE 
FluBPCR-NEGATIVE
___ 06:08AM STOOL NoroGI-NEGATIVE NoroGII-NEGATIVE

___ 6:08 am STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

                            **FINAL REPORT ___

   C. difficile PCR (Final ___: 
      NEGATIVE. 
           (Reference Range-Negative). 
      The C. difficile PCR is highly sensitive for toxigenic 
strains of C.
      difficile and detects both C. difficile infection (CDI) 
and
      asymptomatic carriage. 
      A negative C. diff PCR test indicates a low likelihood of 
CDI or
      carriage. 

___ 6:08 am STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

                            **FINAL REPORT ___

   FECAL CULTURE (Final ___: 
      NO ENTERIC GRAM NEGATIVE RODS FOUND. 
      NO SALMONELLA OR SHIGELLA FOUND. 

   CAMPYLOBACTER CULTURE (Final ___:    NO CAMPYLOBACTER 
FOUND. 

   OVA + PARASITES (Final ___: 
      TEST CANCELLED, PATIENT CREDITED. 
      QUANTITY NOT SUFFICIENT. 
      Reported to and read back by ___ RN 10:43 
___. 

CT ABD & PELVIS WITH CONTRASTStudy Date of ___
1. New mild bilateral perinephric stranding is nonspecific.  
Correlate with urinalysis for infection.
2. 3 mm nonobstructing right renal stone.
3. Stable moderate hiatal hernia.

KNEE (AP, LAT & OBLIQUE) RIGHTStudy Date of ___ 
1. Small knee effusion and mild soft tissue edema about the knee 
which may relate to postsurgical changes and/or infection.
2. Densities in the suprapatellar region could represent sequela 
of quadriceps tendon repair.  Suggestion of patella baja.

 
Brief Hospital Course:
___ yo man w/ developmental delay, adrenal hyperplasia (on 
dexamethasone, fludrocortisone), traumatic R quad tendon rupture 
s/p quad tendon repair on ___ ___/b sepsis s/p 
debridement of R knee on ___ w/ no growth from OR cultures, s/p 
4wks IV vancomycin/ceftriaxone ending ___. At time of discharge 
patient was feeling well, without any fevers but with some 
ongoing intermittent loose stools. Stool studies were negative 
for bacterial infection and C diff was negative, but patient was 
treated with PO vancomycin prophylaxis given history of presumed 
C diff (PCR+, toxin negative). 

TRANSITIONAL ISSUES
===================
[] Please repeat BMP in 1 week and ensure resolution of mild 
hypokalemia and hypernatremia. He should also have repeat CRP 
(Admission CRP 95) to ensure knee is recovering after septic 
joint and course of abx
[] Stop vancomycin 125mg PO BID on ___ 
[] Patient should have follow up with PCP in the next 7 days to 
reevaluate knee after cessation of antibiotics and diarrhea

ACUTE ISSUES ADDRESSED
=======================
# Fever 
# Abdominal pain 
# Presumed C. diff colitis 
Patient presented with fever and abdominal pain. He was recently 
started on PO vanc for presumed C. diff colitis. He continued to 
have diarrhea but remained afebrile, without leukocytosis, and 
with improving abdominal pain. Stool tests sent were remarkable 
for negative C. diff PCR, negative bacterial stool cultures. 
Decreased PO vancomycin to prophylactic dosing of 125mg BID. At 
time of discharge fever and abdominal pain had resolved, but 
patient did have ongoing loose bowel movements ___ daily 
without clear etiology. Suspect antibiotic associated/non 
infectious given that he was clinically well appearing 
otherwise. 

# R knee septic arthritis 
Patient had a R quad tendon rupture s/p quad tendon repair with 
course c/b sepsis c/f post op infection s/p R knee washout and 
debridement on ___. No growth from the OR cultures, but was 
started on a 4 week course of vanc/ceftriaxone (scheduled to end 
___ due to significant amount of polys and purulence noted 
during washout. Per OMR review, his knee was without erythema or 
purulence at his OPAT visit on ___. On exam on day of 
admission, patient's knee is very warm, erythematous, and tender 
to light touch, and CRP remains elevated at 95.8, which is 
concerning for a possible septic joint. ID was consulted and 
recommended joint aspiration initially, though with improvement 
in knee exam, aspiration and I&D were deferred. Continued IV 
vancomycin and ceftriaxone until ___. Patient was discharged 
off of antibiotics with plan for outpatient monitoring. 

# Hypokalemia 
# Non-anion gap metabolic acidosis 
# Hypovolemia ___ to Diarrhea 
Likely ___ GI losses, improved with IVF resuscitation and 
potassium repletion. 

# Acute on chronic normocytic anemia 
His current Hgb level is 9.5, slightly down from yesterday. 
Likely in the context of infection. Iron studies showed iron 
deficiency. Can start outpatient iron supplementation.

CHRONIC/STABLE ISSUES: 
====================== 
# Congenital adrenal hyperplasia 
Salt-wasting type, managed by his PCP. Continued home 
fludrocortisone 0.1mg QAM and dexamethasone 0.5mg QAM 

# History of TURP 
Asymptomatic. Continued home Finasteride 5mg QHS and Tamsulosin 
0.4mg QHS. 

# Intellectual disability 
He works at ___ and lives in assisted living group 
home. Brother is HCP and mother is secondary HCP. 

# CODE: Full (presumed) 
# CONTACT: 
HCP: ___, brother 
Phone number: ___ 

Will require less than 30 days of rehab 

>30 min spent on discharge planning including face to face time. 


 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Dexamethasone 0.5 mg PO DAILY 
2. Finasteride 5 mg PO DAILY 
3. Fludrocortisone Acetate 0.1 mg PO DAILY 
4. Tamsulosin 0.4 mg PO QHS 
5. CefTRIAXone 2 gm IV Q 24H 
6. Vancomycin 1250 mg IV Q 12H 
7. Vancomycin Oral Liquid ___ mg PO QID 

 
Discharge Medications:
1.  Vancomycin Oral Liquid ___ mg PO BID  
2.  Dexamethasone 0.5 mg PO DAILY  
3.  Finasteride 5 mg PO DAILY  
4.  Fludrocortisone Acetate 0.1 mg PO DAILY  
5.  Tamsulosin 0.4 mg PO QHS  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=================
R knee septic arthritis 
C difficile infection 

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of ___ at the ___ 
___.

Why did ___ come to the hospital?
- ___ came to the hospital because ___ were having a fever and 
diarrhea. 

What did ___ receive in the hospital?
- ___ received IV fluids and antibiotics to treat the infection 
in your knee.

- ___ also received a medication to treat a diarrheal illness 
called C Diff that we thought ___ might have. 

What should ___ do once ___ leave the hospital?
- Please take all of your medications as prescribed and attend 
all of your follow up appointments as scheduled.

We wish ___ all the best!
- Your ___ Care Team
 
Followup Instructions:
___